US07494999B2
1-(4-Chloro-5-trifluoromethyl-pyridin-2-yl)-cis-3,5-dimethyl-piperazine:
2,4-dichloro-5-(trifluoromethyl)pyridine (800 mg, 3.70 mmol), 2,6-dimethylpiperazine (800 mg, 7.14 mmol), and K2CO3 (1.0 g, 7.25 mmol) were added to dimethylformamide (15 mL). The resulting solution was heated for 2 h at 140° C. The reaction mixture was then quenched by the adding 50 mL of ice-water and extracted with EtOAc (50 mL). The organic layers were combined and dried over MgSO4. The solvent was concentrated and the residue was purified using silica gel column chromatography to 0.2 g (18%) of 1-(4-chloro-5-(trifluoromethyl)pyridine-2-yl)-cis-3,5-dimethylpiperazine.

reactant | 2,4-dichloro-5-(trifluoromethyl)pyridine | 3.70 mmol, 800 mg | ClC1=NC=C(C(=C1)Cl)C(F)(F)F | C6H2Cl2F3N
reactant | 2,6-dimethylpiperazine | 7.14 mmol, 800 mg | CC1NC(CNC1)C | C6H14N2
reactant | K2CO3 | 7.25 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 1-(4-Chloro-5-trifluoromethyl-pyridin-2-yl)-cis-3,5-dimethyl-piperazine | ClC1=CC(=NC=C1C(F)(F)F)N1C[C@H](N[C@H](C1)C)C | C12H15ClF3N3
